US09302991B2
<Step-1>: 2-bromo-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylisonicotinamide (single enantiomer)
The title compound is prepared in 83% yield (387 mg, a yellow solid) from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (300 mg, 1.0 mmol, Amine-5, single enantiomer) and 2-bromo-6-methylisonicotinic acid (223 mg, 1.0 mmol) by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 1.0 mmol, 300 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-bromo-6-methylisonicotinic acid | 1.0 mmol, 223 mg | BrC=1C=C(C(=O)O)C=C(N1)C | C7H6BrNO2
product | 2-bromo-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylisonicotinamide | 83% yield | BrC=1C=C(C(=O)NC(C)C=2C=NC(=C(C2)Cl)OCC(F)(F)F)C=C(N1)C | C16H14BrClF3N3O2
